US07973078B2
650 mg of methyl 5-[(1,3-dioxo-1,3-dihydro-2H-isoindole-2-yl)methyl]-1-methyl-1H-pyrrole-2-carboxylate was dissolved in 20.0 mL of methanol, and 109 mg of hydrazine monohydrate was added thereto, followed by stirring at room temperature overnight. The reaction liquid was concentrated under reduced pressure, to the obtained residue was added chloroform, and the insolubles were filtered off. Then, the filtrate was concentrated under reduced pressure to obtain 294 mg of methyl 5-(aminomethyl)-1-methyl-1H-pyrrole-2-carboxylate.

reactant | methyl 5-[(1,3-dioxo-1,3-dihydro-2H-isoindole-2-yl)methyl]-1-methyl-1H-pyrrole-2-carboxylate | 650 mg | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC=C(N1C)C(=O)OC | C16H14N2O4
reactant | hydrazine monohydrate | 109 mg | O.NN
solvent | methanol | 20.0 mL | CO | CH4O
product | methyl 5-(aminomethyl)-1-methyl-1H-pyrrole-2-carboxylate | 294 mg | NCC1=CC=C(N1C)C(=O)OC | C8H12N2O2
